US06337331B1
To a cold (−78° C.), stirred solution of N-[3-benzenesulfinylmethyl-5-(2-fluorophenyl)-3H-1,2,3-triazol-4-yl]-2-chloro-2-cyclobutylacetamide (166 mg. 0.37 mmol) in dry tetrahydrofuran (20 ml) under nitrogen was added a solution of potassium bis(trimethylsilyl)amide (1.8 ml, 0.752 M in toluene, 1.3 mmol) and the reaction stirred for 2 hours. The reaction was allowed to warm to −20° C. and maintained at this temperature for 45 minutes before quenching by careful addition to water (100 ml). The aqueous mixture was stirred for 5 minutes and then acidified with citric acid solution (25 ml, 10% aqueous). The aqueous was extracted with ethyl acetate (2×70 ml) and the combined organic extracts were washed with water (50 l), brine (50 l), dried (Na2SO4) and evaporated in vacuo to approximately 2 ml total volume. The concentrated solution was allowed to stand at room temperature for 16 hours. The solid precipitate thus formed was collected by filtration and washed with diethyl ether to afford 6-cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (45 mg, 43%) as a pale solid which was used in subsequent reactions without further purification. δH (400 MHz, d6-DMSO) 1.78-1.89 (1H, m, CH(CH2)3), 1.93-2.0 4(1H, m, CH(CH2)3), 2.11-2.31 (4H, m, CH(CH2)3), 3.47 (1H, quintet, J=8.6 Hz, CH(CH2)3), 7.30-7.35 (2H, m, ArH, 7.44-7.50 (1H, m, ArH), 7.69 (1H, t, J=7.2 Hz, ArH), 8.82 (1H, s, CH═C.), 12.33 (1H, br s, NH); m/z (ES+) 285 (M+H+).

reactant | N-[3-benzenesulfinylmethyl-5-(2-fluorophenyl)-3H-1,2,3-triazol-4-yl]-2-chloro-2-cyclobutylacetamide | 0.37 mmol, 166 mg | C1(=CC=CC=C1)S(=O)CN1N=NC(=C1NC(C(C1CCC1)Cl)=O)C1=C(C=CC=C1)F | C21H20ClFN4O2S
reactant | potassium bis(trimethylsilyl)amide | 1.3 mmol, 0.752 M, 1.8 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 45 mg, 43% | C1(CCC1)C=1C(NC=2N(C1)N=NC2C2=C(C=CC=C2)F)=O | C15H13FN4O
